US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (456 mg) and 1-octanesulfonyl chloride (470 μL), respectively, to provide crude 4-(2,5-difluoro-4-methoxyphenyl)-1-(octylsulfonyl)piperazine (681 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 456 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 1-octanesulfonyl chloride | 470 μL | C(CCCCCCC)S(=O)(=O)Cl | C8H17ClO2S
product | 4-(2,5-difluoro-4-methoxyphenyl)-1-(octylsulfonyl)piperazine | 681 mg | FC1=C(C=C(C(=C1)OC)F)N1CCN(CC1)S(=O)(=O)CCCCCCCC | C19H30F2N2O3S
